US09078888B2
Synthesis of 1-(2-(piperidin-1-yl)ethoxy)isoquinolin-6-ol (13a)
6-Methoxy-1-(2-(piperidin-1-yl)ethoxy)isoquinoline (0.60 g, 2.10 mmol) was dissolved in 30 mL of dry CH2Cl2 at room temperature. BBr3 (10.50 mmol, 10.50 mL of 1.0 M CH2Cl2 solution) was added dropwise with stirring via a syringe at room temperature. The reaction solution was allowed to stir overnight at room temperature. The mixture was cooled to 0° C. in an ice bath and hydrolyzed by adding water. EtOAc was added to partition the solution. The organic layer was separated; the aqueous layer was extracted with EtOAc twice. The organic layers were combined, washed with brine and dried over anhydrous MgSO4. The solvent was removed under vacuum. The residue was purified by flash column chromatography using silica-gel with CH3OH/CH2Cl2 (1/9 v/v) to give a white solid product, 40 g, 70.2% yield. MS: 273.2 [M+H]+. 1H NMR (DMSO-d6, 300 MHz) δ 10.29 (s, 1H), 8.05 (d, 1H, J=8.7 Hz), 7.32 (d, 1H, J=7.2 Hz), 6.93 (d, 1H, J=8.4 Hz), 6.87 (s, 1H), 6.43 (d, 1H, J=7.2 Hz), 4.03 (s, br, 2H), 2.62 (s, br, 2H), 2.50 (s, br, 2H), 1.49-1.39 (m, 6H).

reactant | 6-Methoxy-1-(2-(piperidin-1-yl)ethoxy)isoquinoline | 2.10 mmol, 0.60 g | COC=1C=C2C=CN=C(C2=CC1)OCCN1CCCCC1 | C17H22N2O2
reactant | BBr3 | 10.50 mmol, 1.0 M, 10.50 mL | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-(piperidin-1-yl)ethoxy)isoquinolin-6-ol | 70.2% yield | N1(CCCCC1)CCOC1=NC=CC2=CC(=CC=C12)O | C16H20N2O2
